US08058441B2
1-Acetyl-6-(4-phenylbenzoyl)amino-1,2,3,4-tetrahydro-4-toloyl-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-amino-4-toloyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg) with 4-biphenylcarbonyl chloride (14 mg) and N,N-diisopropylethylamine (20 μl) in tetrahydrofuran (1 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-amino-4-toloyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)C1(CC=C(C=C1N)C(=O)N1C(CC(C2=CC=CC=C12)C)(C)C)C | C22H28N2O2
reactant | 4-biphenylcarbonyl chloride | 14 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | N,N-diisopropylethylamine | 20 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(4-phenylbenzoyl)amino-1,2,3,4-tetrahydro-4-toloyl-2,2,4-trimethylquinoline | C(C)(=O)C1(CCC(C=C1NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)C(=O)C=1C(NC2=CC=CC=C2C1C)(C)C)C | C35H36N2O3
